US05489593
1-(5-Fluoroindolyl-2-carbonyl)-4-[3-methylamino-2-pyridinyl]piperazine (III)
5-Fluoroindole-2-carboxylic acid (98 mg) and 1,1'-carbonyldiimidazole (95 mg) are dissolved in dry THF (1 ml) and stirred for 2 hr at 20°-25°. The resulting solution is added via canula to a -10° cooled solution of 4-[3-(methylamino)-2-pyridinyl]piperazine (117 mg) in dry THF (1 ml). The reaction mixture is then allowed to reach 20°-25° overnight. The reaction mixture is then diluted with ethyl acetate, washed with saturated sodium bicarbonate and saline, dried over magnesium sulfate, and concentrated to give a solid, which is purified on a silica gel flash column eluting with hexane/ethyl acetate (1/1). The appropriate fractions are pooled and concentrated to give a solid. Recrystallization of the solid from ethyl acetate/ether gives the title compound, mp 194°-195°.

reactant | 5-Fluoroindole-2-carboxylic acid | 98 mg | FC=1C=C2C=C(NC2=CC1)C(=O)O | C9H6FNO2
reactant | 1,1'-carbonyldiimidazole | 95 mg | C(=O)(N1C=NC=C1)N1C=NC=C1 | C7H6N4O
reactant | 4-[3-(methylamino)-2-pyridinyl]piperazine | 117 mg | CNC=1C(=NC=CC1)N1CCNCC1 | C10H16N4
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | THF | 1 ml | C1CCOC1 | C4H8O
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 1-(5-Fluoroindolyl-2-carbonyl)-4-[3-methylamino-2-pyridinyl]piperazine | CNC1=C(N=CC=C1)N2CCN(CC2)C(=O)C3=CC4=C(N3)C=CC(=C4)F | C19H20FN5O
